US06136842
(S)N-(2-mercapto-1-oxo-3-phenylpropyl) D-Tryptophan
The operation is carried out as in Stage 1 of Example 24 using, instead of the hydrochloride of the methyl ester of L-Tryptophan, the hydrochloride of the methyl ester of D-Tryptophan and, instead of (R)-2-(benzoylthio)-3-phenylpropanoic acid, (S)-2-(benzoylthio)-3-phenylpropanoic acid (prepared according the same reference). After purification by chromatography on silica with a methylene chloride-ethyl acetate: 95-5 mixture as eluant, 564 mg of expected product (SR isomer) (colourless foam) is obtained.

reactant | hydrochloride | Cl | ClH
reactant | L-Tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | D-Tryptophan | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | (R)-2-(benzoylthio)-3-phenylpropanoic acid | C(C1=CC=CC=C1)(=O)S[C@@H](C(=O)O)CC1=CC=CC=C1 | C16H14O3S
reactant | (S)-2-(benzoylthio)-3-phenylpropanoic acid | C(C1=CC=CC=C1)(=O)S[C@H](C(=O)O)CC1=CC=CC=C1 | C16H14O3S
product | (S)N-(2-mercapto-1-oxo-3-phenylpropyl) D-Tryptophan | 564 mg | SC(C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)CC1=CC=CC=C1 | C20H20N2O3S
